US04604390
5-Amino-N,N-diethyl-2H-[1]benzopyrano[4,3,2-cd]-indazol-2-ethanamine
A solution of 8.9 g (0.026 mole) of N,N-diethyl-5-nitro-2H-[1]benzopyrano[4,3,2-cd]indazole-2-ethanamine in 100 ml of tetrahydrofuran was hydrogenated over 1 g of 10% palladium on carbon at ambient temperature and a hydrogen pressure of 46.3-52.3 psi. The mixture was filtered and the solvent removed in vacuo. The oily residue was triturated with petroleum ether and recrystallized from n-hexane to give the product, mp 78°-80° C.

reactant | N,N-diethyl-5-nitro-2H-[1]benzopyrano[4,3,2-cd]indazole-2-ethanamine | 0.026 mole, 8.9 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])OC1=C2C=CC=C1)CC | C19H20N4O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 5-Amino-N,N-diethyl-2H-[1]benzopyrano[4,3,2-cd]-indazol-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=CC=C1 | C19H22N4O
